US08049016B2
Synthesis of 2-(3-((2,2-difluorocyclopropyl)methyl)-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
A mixture of 2-(3-((2,2-difluorocyclopropyl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid (0.11 g, 0.36 mmol), 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (0.23 g, 0.73 mmol), N-hydroxybenzotriazole (0.20 g, 0.15 mmol) and N,N-diisopropylethylamine (0.09 g, 0.73 mmol) in anhydrous tetrahydrofuran (3.0 mL) was stirred at ambient temperature for 15 min, followed by the addition of 3-(aminomethyl)pyridine (0.08 g, 0.73 mmol) in anhydrous tetrahydrofuran (1.0 mL). The reaction mixture was stirred at ambient temperature for 16 h, followed by the addition of saturated sodium bicarbonate solution (2 mL). The mixture was extracted with ethyl acetate (3×3 mL). The combined organic layer was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness. The solid was purified by flash chromatography eluted with dichloromethane in methanol (2%) to afford the title compound as a colourless solid (0.12 g, 81%): mp 169-171° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.52 (t, J=5.9 Hz, 1H), 8.49 (s, 1H), 8.42 (d, J=3.7 Hz, 1H), 7.67 (d, J=7.8 Hz, 1H), 7.32 (dd, J=7.8, 4.9 Hz, 1H), 4.35 (d, J=5.9 Hz, 2H), 3.99 (d, J=8.3 Hz, 1H), 3.61-3.47 (m, 3H), 3.20-3.12 (m, 1H), 2.44 (s, 3H), 2.05-1.88 (m, 1H), 1.67-1.55 (m, 1H), 1.37-1.27 (m, 1H); MS (ES+) m/z 409.0 (M+1).

reactant | 2-(3-((2,2-difluorocyclopropyl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | 0.36 mmol, 0.11 g | FC1(C(C1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O)F | C12H13F2N3O3S
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.73 mmol, 0.23 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N-hydroxybenzotriazole | 0.15 mmol, 0.20 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N-diisopropylethylamine | 0.73 mmol, 0.09 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-(aminomethyl)pyridine | 0.73 mmol, 0.08 g | NCC=1C=NC=CC1 | C6H8N2
reactant | sodium bicarbonate | 2 mL | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
product | 2-(3-((2,2-difluorocyclopropyl)methyl)-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 0.12 g, 81% | FC1(C(C1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)NCC=1C=NC=CC1)=O)F | C18H19F2N5O2S
